US06235730B1
Using acetanilide (8.25 g) and 5-bromopyrimidine, a reaction was made in the same manner as in 1) of Production Example 2. The subsequent purification by silica gel column chromatography (developing solvent, ethyl acetate:hexane=1:1 to 3:1) produced N-(5-pyrimidinyl)acetanilide (7.98 g; yield, 61%) as a pale yellow oil.

reactant | acetanilide | 8.25 g | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | 5-bromopyrimidine | BrC=1C=NC=NC1 | C4H3BrN2
product | N-(5-pyrimidinyl)acetanilide | 7.98 g, 61% | N1=CN=CC(=C1)N(C1=CC=CC=C1)C(C)=O | C12H11N3O
